US08633201B2
4-Amino-3-(tetrahydrofuran-3-yloxy)-benzamide
To a solution of 4-nitro-3-(tetrahydrofuran-3-yloxy)-benzamide (4.77 g, 18.15 mmol) in ethanol (200 ml) was added 10% palladium on carbon (0.5 g, 10% w/w) and the flask rinsed with an additional portion of ethanol (20 ml). The reaction was then purged with a nitrogen atmosphere, placed under a H2 (g) atmosphere and stirred at room temperature for 18 hours. The reaction was then purged with N2 (g) and filtered through a celite pad. The pad was washed with ethanol (100 ml) and the filtrate concentrated to dryness in vacuo to give the title compound as a white solid (4.22 g, 18.9 mmol, 100% corrected). LCMS: [M+H]+=223, Rt=1.01 min, 100% purity

reactant | 4-nitro-3-(tetrahydrofuran-3-yloxy)-benzamide | 18.15 mmol, 4.77 g | [N+](=O)([O-])C1=C(C=C(C(=O)N)C=C1)OC1COCC1 | C11H12N2O5
solvent | ethanol | 200 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | 4-Amino-3-(tetrahydrofuran-3-yloxy)-benzamide | 18.9 mmol, 4.22 g, 100% | NC1=C(C=C(C(=O)N)C=C1)OC1COCC1 | C11H14N2O3
